US05578620
1-(4-Methoxyphenoxymethyl)-2-(2-t-butyldimethylsilyloxy-1-methylethylamino)ethanol
A procedure similar to that described in Preparation 10 was repeated, except that 3.22 g of 2-t-butyldimethylsilyloxy-1-methylethylamine, 3.00 g of 4-methoxyphenoxymethyloxirane and 30 ml of ethanol were used, to give 3.58 g of the title compound having an Rf value of 0.15 (on silica gel thin layer chromatography, using ethyl acetate as the developing solvent).

reactant | 2-t-butyldimethylsilyloxy-1-methylethylamine | 3.22 g | [Si](C)(C)(C(C)(C)C)OCC(C)N | C9H23NOSi
reactant | 4-methoxyphenoxymethyloxirane | 3.00 g | COC1=CC=C(OCC2OC2)C=C1 | C10H12O3
solvent | ethanol | 30 ml | C(C)O | C2H6O
product | 1-(4-Methoxyphenoxymethyl)-2-(2-t-butyldimethylsilyloxy-1-methylethylamino)ethanol | 3.58 g | COC1=CC=C(OCC(CNC(CO[Si](C)(C)C(C)(C)C)C)O)C=C1 | C19H35NO4Si
